US07915267B2
To a solution of a mixture of methyl 1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-4-nitro-1H-pyrazole-5-carboxylate and methyl 1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-4-nitro-1H-pyrazole-3-carboxylate (7.42 g) in a mixed solvent of THF (200 mL)-methanol (100 mL) was added 10% palladium carbon (1.17 g), and the mixture was subjected to catalytic reduction under hydrogen atmosphere (1 atm) at room temperature overnight. The catalyst was filtered off, and the filtrate was concentrated. The precipitated methyl 4-amino-1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-1H-pyrazole-3-carboxylate (3.62 g) was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography to give methyl 4-amino-1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-1H-pyrazole-5-carboxylate (2.18 g).

reactant | methyl 1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-4-nitro-1H-pyrazole-5-carboxylate | COC(=O)C1=CC=C(C=C1)OCCN1N=CC(=C1C(=O)OC)[N+](=O)[O-] | C15H15N3O7
reactant | methyl 1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-4-nitro-1H-pyrazole-3-carboxylate | 7.42 g | COC(=O)C1=CC=C(C=C1)OCCN1N=C(C(=C1)[N+](=O)[O-])C(=O)OC | C15H15N3O7
reactant | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | palladium carbon | 1.17 g | [C].[Pd]
solvent | methanol | 100 mL | CO | CH4O
product | methyl 4-amino-1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-1H-pyrazole-5-carboxylate | 2.18 g | NC=1C=NN(C1C(=O)OC)CCOC1=CC=C(C=C1)C(=O)OC | C15H17N3O5
